US05929085
(a) 7-Nitro-1-methyl-3,4-dihydro-1H-1,4-benzodiazapine-2,5-dione
1-Methyl-3,4-dihydro-1H-benzo[e][1,4]diazapine-2,5-dione (3.4 g, 17.9 mmol) was dissolved in concentrated sulfuric acid (30 ml) and to this was added potassium nitrate (1.95 g, 19.3 mmol) at 0° C. The mixture was stirred overnight, dumped onto ice, and the solids filtered off (3.62 g, 86%), m.p. 274-276° C.

reactant | 1-Methyl-3,4-dihydro-1H-benzo[e][1,4]diazapine-2,5-dione | 17.9 mmol, 3.4 g | CN1C(CNC(C2=C1C=CC=C2)=O)=O | C10H10N2O2
reactant | potassium nitrate | 19.3 mmol, 1.95 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 30 ml | S(O)(O)(=O)=O | H2O4S
product | 7-Nitro-1-methyl-3,4-dihydro-1H-1,4-benzodiazapine-2,5-dione | [N+](=O)([O-])C=1C=CC2=C(C(NCC(N2C)=O)=O)C1 | C10H9N3O4
